US09034900B2
Step 2: 2-methyl-6-pyridin-2-ylisoquinolin-1-one
A mixture of 2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one (420 mg, 1.47 mmol), 2-bromopyridine (698 mg, 4.42 mmol), Pd(dppf)Cl2 (107 mg, 0.15 mmol) and saturated aqueous NaHCO3 (3.5 mL) in DMSO (25 mL) was microwaved at 150° C. for 45 min. After extractive work up with ethyl acetate, purification by silica gel chromatography (PE:EA=3:1 to 3:2) gave the title compound (160 mg, 46.0%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 8.76 (d, J=4.8 Hz, 1H), 8.53 (d, J=8.0 Hz, 1H), 8.20 (d, J=1.2 Hz, 1H), 8.07 (dd, J1=8.4 Hz, J2=1.6 Hz, 1H), 7.85-7.82 (m, 2H), 7.34-7.30 (m, 1H), 7.11 (d, J=7.2 Hz, 1H), 6.6 (d, J=7.2 Hz, 1H), 3.64 (s, 3H). LCMS: 237.2 (M+H)+

reactant | 2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one | 1.47 mmol, 420 mg | CN1C(C2=CC=C(C=C2C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H20BNO3
reactant | 2-bromopyridine | 4.42 mmol, 698 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | NaHCO3 | 3.5 mL | C(=O)(O)[O-].[Na+]
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)Cl2 | 0.15 mmol, 107 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-methyl-6-pyridin-2-ylisoquinolin-1-one | 160 mg, 46.0% | CN1C(C2=CC=C(C=C2C=C1)C1=NC=CC=C1)=O | C15H12N2O
